US05750531
Synthesis of 6-methyl-2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.7 ml, 7.4 mmol) was added to a mixture solution of 6-methyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine(1.0 g, 3.8 mmol) and dimethylformamide(10 ml), 0.6 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 7.4 mmol, 0.7 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 6-methyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine | 3.8 mmol, 1.0 g | CC1=CC(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1 | C14H14ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-methyl-2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)pyrimidine hydrochloride | 0.6 g, Yield: 42.6% | Cl.CC1=CC(=NC(=N1)NC1=CC=C(C=C1)F)N1CC2=CC=CC=C2CC1 | InChI=1S/C20H19FN4.ClH/c1-14-12-19(25-11-10-15-4-2-3-5-16(15)13-25)24-20(22-14)23-18-8-6-17(21)7-9-18;/h2-9,12H,10-11,13H2,1H3,(H,22,23,24);1H
